US08383629B2
To a solution of (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid (20 mg, 0.04 mmol) in anhydrous CH2Cl2 (5 mL) was added 2-aminoethanol (3.6 mg, 0.06 mmol), HOBt (12 mg, 0.09 mmol), EDCI (18 mg, 0.09 mmol) and DIEA (28 mg, 0.22 mol) at 0° C. and the mixture was stirred overnight at rt under N2. The reaction mixture was washed with 1 N aq HCl and water. The organic phase was dried over Na2SO4, filtered and concentrated to afford a residue, which was purified by prep TLC to give (E)-N-(2-hydroxyethyl)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxamide (8 mg, 40%). 1H NMR (CD3OD): 1.90 (m, 4H), 3.25 (s, 3H), 3.50 (m, 2H), 3.70 (m, 2H), 3.98 (m, 1H), 4.15 (m, 2H), 4.30 (m, 1H), 7.10 (m, 1H), 7.26 (m, 1H), 7.53 (m, 1H), 7.68 (m, 1H), 7.75 (m, 1H), 7.90 (m, 2H), 8.00 (m, 2H).

reactant | (E)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylic acid | 0.04 mmol, 20 mg | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C12)C(=O)O)=O | C24H21F3N2O4
reactant | 2-aminoethanol | 0.06 mmol, 3.6 mg | NCCO | C2H7NO
reactant | HOBt | 0.09 mmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.09 mmol, 18 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 0.22 mol, 28 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(2-hydroxyethyl)-1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxamide | 8 mg, 40% | OCCNC(=O)C=1C=C2C(=CC1)N(C(C21CCN(CC1)C(\C=C\C1=C(C=CC=C1)C(F)(F)F)=O)=O)C | C26H26F3N3O4
